US08236835B2
Synthesis of N-benzyl-2-(3-(4-methoxybenzyl)-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 2, making variation as required to use N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide in place of N-(4-fluorobenzyl)-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide to react with 1-(bromomethyl)-4-methoxybenzene in place of 1-(bromomethyl)-4-(trifluoromethyl)benzene, the title compound was obtained as a white solid in 28% yield: mp 116-118° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.39-7.23 (m, 5H), 7.08 (d, J=8.5 Hz, 2H), 6.80 (d, J=8.5 Hz, 2H), 6.00 (t, J=5.6 Hz, 1H), 4.57 (d, J=5.6 Hz, 2H), 4.29-4.20 (m, 1H), 3.97-3.88 (m, 1H), 3.76 (s, 3H), 3.37-3.27 (m, 1H), 2.82-2.67 (m, 2H), 2.63 (s, 3H), 2.08-1.93 (m, 1H), 1.92-1.71 (m, 2H), 1.62-1.44 (m, 1H); 13C NMR (75 MHz, CDCl3) δ 166.3, 156.7, 152.3, 151.1, 146.2, 131.9, 124.9, 124.2, 122.9, 121.9, 121.7, 113.4, 107.9, 49.3, 42.2, 38.3, 38.1, 30.7, 18.8, 15.3, 11.4; MS (ES+) m/z 450.2 (M+1).

reactant | N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(CCCC1)=O)C | C17H19N3O2S
reactant | 1-(bromomethyl)-4-methoxybenzene | BrCC1=CC=C(C=C1)OC | C8H9BrO
product | N-benzyl-2-(3-(4-methoxybenzyl)-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide | 28% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CCC1)CC1=CC=C(C=C1)OC)=O)C | C25H27N3O3S
